* c:\users\sutha\desktop\octal_bin_conv\octal_bin_conv.cir

* u9  net-_u8-pad11_ net-_u14-pad1_ net-_u15-pad1_ d_or
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u15  net-_u15-pad1_ net-_u10-pad3_ net-_u15-pad3_ d_or
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_or
* u12  net-_u10-pad1_ net-_u10-pad2_ net-_u12-pad3_ d_or
* u16  net-_u11-pad3_ net-_u12-pad3_ net-_u16-pad3_ d_or
* u13  net-_u13-pad1_ net-_u11-pad2_ net-_u13-pad3_ d_or
* u14  net-_u14-pad1_ net-_u10-pad2_ net-_u14-pad3_ d_or
* u17  net-_u13-pad3_ net-_u14-pad3_ net-_u17-pad3_ d_or
* u18  net-_u15-pad3_ net-_u16-pad3_ net-_u17-pad3_ y2 y1 y0 dac_bridge_3
* u8  d1 d2 d3 d4 d5 d6 d7 net-_u13-pad1_ net-_u11-pad1_ net-_u11-pad2_ net-_u8-pad11_ net-_u14-pad1_ net-_u10-pad1_ net-_u10-pad2_ adc_bridge_7
v1 d1 gnd  dc 0
v2 d2 gnd  dc 0
v3 d3 gnd  dc 0
v4 d4 gnd  dc 0
v5 d5 gnd  dc 0
v6 d6 gnd  dc 0
v7 d7 gnd  dc 5
r1  y2 gnd 100
r3  y1 gnd 100
r2  y0 gnd 100
* u19  y0 plot_v1
* u21  y1 plot_v1
* u20  y2 plot_v1
* u7  d7 plot_v1
* u6  d6 plot_v1
* u5  d5 plot_v1
* u4  d4 plot_v1
* u3  d3 plot_v1
* u2  d2 plot_v1
* u1  d1 plot_v1
a1 [net-_u8-pad11_ net-_u14-pad1_ ] net-_u15-pad1_ u9
a2 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a3 [net-_u15-pad1_ net-_u10-pad3_ ] net-_u15-pad3_ u15
a4 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a5 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u12-pad3_ u12
a6 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u16-pad3_ u16
a7 [net-_u13-pad1_ net-_u11-pad2_ ] net-_u13-pad3_ u13
a8 [net-_u14-pad1_ net-_u10-pad2_ ] net-_u14-pad3_ u14
a9 [net-_u13-pad3_ net-_u14-pad3_ ] net-_u17-pad3_ u17
a10 [net-_u15-pad3_ net-_u16-pad3_ net-_u17-pad3_ ] [y2 y1 y0 ] u18
a11 [d1 d2 d3 d4 d5 d6 d7 ] [net-_u13-pad1_ net-_u11-pad1_ net-_u11-pad2_ net-_u8-pad11_ net-_u14-pad1_ net-_u10-pad1_ net-_u10-pad2_ ] u8
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u9 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u15 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u12 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u16 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u13 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u14 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 2e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y0)
plot v(y1)
plot v(y2)
plot v(d7)
plot v(d6)
plot v(d5)
plot v(d4)
plot v(d3)
plot v(d2)
plot v(d1)
.endc
.end
